US07186724B2
7a: trans-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropanecarboxylic acid
Add 5N NaOH solution (425 mL, 226 mmol) to a solution of trans-2-[4-(6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropanecarboxylic acid methyl ester, Example 6a, (18.0 g, 45.1 mmol) in dioxane/methanol (400 mL, 3:1) and heat the reaction at 60° C. for 6 h. Selectively remove most of the methanol and acidify the remaining dioxane solution to pH 5–6 with 2N acetic acid. Collect the desired compound, which precipitates from solution, to obtain 14.08 g (81%) of colorless crystals, m/z=385 (M+H)+

reactant | NaOH | 226 mmol, 5N, 425 mL | [OH-].[Na+]
reactant | trans-2-[4-(6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropanecarboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](C1)CN1CCN(CC1)C=1C2=C(SC1)C=C(C=C2)C(F)(F)F | C19H21F3N2O2S
solvent | dioxane methanol | 400 mL | O1CCOCC1.CO
product | trans-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropanecarboxylic acid | 14.08 g, 81% | FC(C=1C=CC2=C(SC=C2N2CCN(CC2)C[C@H]2[C@@H](C2)C(=O)O)C1)(F)F | C18H19F3N2O2S
